US05463088
500 ml of hydrogen fluoride, 5 ml of antimony pentachloride and 150 g of 2-chloro-2,3,3-trifluorobenzodioxane were heated in a closed vessel for 6 hours at 40° C., excess hydrogen fluoride was then drawn off, and the residue was taken up in methylene chloride, rendered alkaline and stem-distilled. The re-distillation gave 27 g of 2,2,3,3-tetrafluorobenzodioxane having a boiling point from 142° to 146° C. at 1020 mbar.

reactant | hydrogen fluoride | 500 ml | F | FH
reactant | antimony pentachloride | 5 ml | [Sb](Cl)(Cl)(Cl)(Cl)Cl
reactant | 2-chloro-2,3,3-trifluorobenzodioxane | 150 g | ClC1(C(OC2=C(O1)C=CC=C2)(F)F)F | C8H4ClF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,2,3,3-tetrafluorobenzodioxane | 27 g | FC1(C(OC2=C(O1)C=CC=C2)(F)F)F | C8H4F4O2
